US04976889
93 g of 4-(N-octylamino)-2,2,6,6-tetramethylpiperidine and 33 g of tetrabutyl orthotitanate in 175 ml of ethyl formate were refluxed for 10.5 hours. Working up as in Example 2 gave 4-(N-octyl-N-formylamino)-2,2,6,6-tetramethylpiperidine as a colorless oil of boiling point 145°-147° C./0.5 mmHg

reactant | 4-(N-octylamino)-2,2,6,6-tetramethylpiperidine | 93 g | C(CCCCCCC)NC1CC(NC(C1)(C)C)(C)C | C17H36N2
reactant | ethyl formate | 175 ml | C(=O)OCC | C3H6O2
catalyst | tetrabutyl orthotitanate | 33 g | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
product | 4-(N-octyl-N-formylamino)-2,2,6,6-tetramethylpiperidine | C(CCCCCCC)N(C=O)C1CC(NC(C1)(C)C)(C)C | C18H36N2O
